US09284279B2
A mixture of 3-amino-2-isopropyl-5-nitrophenol (9.94 g, 47 mmol), K2CO3 (13.00 g, 94 mmol) and toluenesulfonic acid cyanomethyl ester (10.93 g, 52 mmol) in 500 mL DMF was warmed to 50° C. After 16 h the mixture was cooled, poured into 500 mL H2O and extracted with toluene/ethyl acetate (1:1). The combined organics were washed with H2O, washed with brine, filtered and concentrated in vacuo. The crude solid was recrystallized from EtOH to afford (2-isopropyl-4-methoxy-5-nitro-phenoxy)-acetonitrile (8.95 g, 76%) as a yellow crystalline solid.

reactant | 3-amino-2-isopropyl-5-nitrophenol | 47 mmol, 9.94 g | NC=1C(=C(C=C(C1)[N+](=O)[O-])O)C(C)C | C9H12N2O3
reactant | K2CO3 | 94 mmol, 13.00 g | C(=O)([O-])[O-].[K+].[K+]
reactant | toluenesulfonic acid cyanomethyl ester | 52 mmol, 10.93 g | C(#N)COS(=O)(=O)C=1C(=CC=CC1)C | C9H9NO3S
reactant | H2O | 500 mL | O | H2O
solvent | DMF | 500 mL | CN(C)C=O | C3H7NO
product | (2-isopropyl-4-methoxy-5-nitro-phenoxy)-acetonitrile | 8.95 g, 76% | C(C)(C)C1=C(OCC#N)C=C(C(=C1)OC)[N+](=O)[O-] | C12H14N2O4
